US04904667
8-Chloro-1H-1,2,4-thiadiazolo[3,4-b]quinazolin-5-one-2,2-dioxide.
To a stirred slurry of 4-chloroisatoic anhydride (4.95 g, 25 mmol) and S-methyl-N-(chloromethanesulfonyl)isothiourea (5.07 g, 25 mmol) in acetonitrile (25 ml) under nitrogen is added 4-(N,N-dimethylamino)pyridine (3.97 g, 33 mmol). The mixture is refluxed under nitrogen for 24 hr, concentrated, then worked up as in Example 4 above. The resulting gummy solid is triturated with hot ethanol, then recrystallized from DMF to provide the title compound as a white solid, mp >300° C. (1.65 g, 24%)

reactant | 4-chloroisatoic anhydride | 25 mmol, 4.95 g | ClC=1C=C2C(C(=O)OC(N2)=O)=CC1 | C8H4ClNO3
reactant | S-methyl-N-(chloromethanesulfonyl)isothiourea | 25 mmol, 5.07 g | CSC(NS(=O)(=O)CCl)=N | C3H7ClN2O2S2
reactant | acetonitrile | 25 ml | C(C)#N | C2H3N
catalyst | 4-(N,N-dimethylamino)pyridine | 33 mmol, 3.97 g | CN(C)C1=CC=NC=C1 | C7H10N2
product | 8-Chloro-1H-1,2,4-thiadiazolo[3,4-b]quinazolin-5-one-2,2-dioxide | ClC1=CC=C2C(N3C(=NC2=C1)NS(C3)(=O)=O)=O | C9H6ClN3O3S
